US04451462
A solution of 21.8 g (0.058 mole) of 5-chloro-6-dibenzylamino-3-methylbenzofuran-2(3H)-one in 220 ml of dioxane is reduced with 2.0 g of palladium-on-carbon (5% strength) at room temperature with hydrogen without superatmospheric pressure. After absorption of the theoretical amount of hydrogen the catalyst is removed by filtration and the dioxane is evaporated off in vacuo. 20 ml of cold methanol are added to the residue and the precipitate is filtered off. 6-amino-5-chloro-3-methylbenzofuran-2(3H)-one is obtained in the form of colourless crystals having a melting point of 139°-140°.

reactant | 5-chloro-6-dibenzylamino-3-methylbenzofuran-2(3H)-one | 0.058 mole, 21.8 g | ClC=1C(=CC2=C(C(C(O2)=O)C)C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H20ClNO2
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 220 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-on-carbon | 2.0 g | [Pd] | Pd
product | 6-amino-5-chloro-3-methylbenzofuran-2(3H)-one | NC1=CC2=C(C(C(O2)=O)C)C=C1Cl | C9H8ClNO2
